US06307064B1
(4S,5R)-N-(t-Butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt
(4S,5R)-N-(t-Butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester (PREPARATION 2—less polar isomer, 6.27 g, 14.2 mM) is stirred at 20-25° under nitrogen in methanol (50 mL). To this mixture is added a solution of potassium carbonate (2.50 g, 18.1 mM) in water (6 mL). After 6 hr the reaction is concentrated under reduced pressure to remove the methanol and the residue freeze dried to give the title compound (admixed with potassium carbonate salts as a powder), NMR (DMSO-d6, TMS) 1.10, 3.77, 4.17, 4.70, 5.16, 6.50, 6.60 and 7.14-7.42 δ.

reactant | (4S,5R)-N-(t-Butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester | 14.2 mM, 6.27 g | COC(=O)[C@H]1[C@@H](N(C(O1)C1=C(C=C(C=C1)OC)OC)C(=O)NC(C)(C)C)C1=CC=CC=C1 | C24H30N2O6
reactant | potassium carbonate | 18.1 mM, 2.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | (4S,5R)-N-(t-Butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt | [K+].C(C)(C)(C)NC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)[O-])C1=C(C=C(C=C1)OC)OC | InChI=1S/C23H28N2O6.K/c1-23(2,3)24-22(28)25-18(14-9-7-6-8-10-14)19(21(26)27)31-20(25)16-12-11-15(29-4)13-17(16)30-5;/h6-13,18-20H,1-5H3,(H,24,28)(H,26,27);/q;+1/p-1/t18-,19+,20?;/m0./s1
